US05179211
Aniline was reacted with methyl ethyl ketone in the same way as in Example 3. 2,3-Dimethylindole was formed in a yield of 93% of the theoretical yield.

reactant | Aniline | NC1=CC=CC=C1 | C6H7N
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 2,3-Dimethylindole | yield of 93% | CC=1NC2=CC=CC=C2C1C | C10H11N
